US05480894
(3 ) 3-Benzyloxy-2-methyl -1-(2-pivaloyloxyethyl)pyridin-4-one
Trimethylamine (4.7 ml) was added with stirring to a solution of 3-benzyloxy-1-(2-hydroxyethyl)-2-methylpyridin-4-one (2 g) in dimethylformamide (40 ml) and the solution was then heated under reflux while pivaloyl chloride (1 ml) was added dropwise. The mixture was refluxed at 78° C. for two hours whilst monitoring by thin layer chromatography (1:1 v/v ethyl acetate:methanol) when very little change of the mixture was obtained. Further trimethylacetylchloride (3 ml) was therefore added and refluxing continued for another 16 hours. The solution was evaporated to dryness, the resultant solid was dissolved in dichloromethane (100 ml) and this solution was washed with sodium bicarbonate solution (0.05M, 4000 ml) and the organic phase was then dried over anhydrous sodium sulphate, filtered and evaporated to dryness. The resultant crude product was flash chromatographed (silica gel, Kieselgel 60,7754, 20 mm×300 mm column; eluting with acetonitrile:ethyl acetate, 1:9 v/v) to provide the title compound in 60% yield as a colourless solid, m.p. 103°- 105.8° C.

reactant | Trimethylamine | 4.7 ml | CN(C)C | C3H9N
reactant | 3-benzyloxy-1-(2-hydroxyethyl)-2-methylpyridin-4-one | 2 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C | C15H17NO3
reactant | pivaloyl chloride | 1 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | trimethylacetylchloride | 3 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 3-Benzyloxy-2-methyl -1-(2-pivaloyloxyethyl)pyridin-4-one | 60% yield | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCOC(C(C)(C)C)=O)C | C20H25NO4
